US05216026
Preparation of N-(3,4-dichlorophenyl)-N'-2-butanesulfonylurea
The general method of procedure A was followed using 2-butanesulfonamide (10 g), 1N sodium hydroxide (73 ml) and 3,4-dichlorophenyl isocyanate (13 g). 1N HCl was added and after removal of the acetone the solid was diluted with water, collected, and dried at 65° C. under vacuum. The solid was recrystallized in acetone and hexane to provide 5.2 g of product.

reactant | 2-butanesulfonamide | 10 g | CC(CC)S(=O)(=O)N | C4H11NO2S
reactant | sodium hydroxide | 1N, 73 ml | [OH-].[Na+]
reactant | 3,4-dichlorophenyl isocyanate | 13 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | HCl | 1N | Cl | ClH
product | N-(3,4-dichlorophenyl)-N'-2-butanesulfonylurea | 5.2 g | ClC=1C=C(C=CC1Cl)NC(=O)NS(=O)(=O)C(C)CC | C11H14Cl2N2O3S
